US04000145
1-METHOXY-6-AMINO-5,7-DIBROMO-2-(TRIFLUOROMETHYL)-1H-IMIDAZO(4,5-b)PYRIDINE
6-Amino-5,7-dibromo-2-trifluoromethyl-1-hydroxy-1H-imidazo(4,5-b)pyridine (1 gram) was mixed and stirred for two hours with 2 milliliters of methyl iodide, 2 grams of potassium carbonate, and 10 milliliters of acetone. The reaction mixture was then diluted with about 80 milliliters of ether and washed with five 15-milliliter portions of water. The ether layer was dried over magnesium sulfate and filtered with carbon, and the ether removed on a rotary evaporator. The resulting 1-methoxy-6-amino-5,7-dibromo-2-(trifluoromethyl)-1H-imidazo(4,5-b)pyridine product melted at 169°-72° C. A portion was recrystallized from methanol, m.p., 177°-8° C.

reactant | 6-Amino-5,7-dibromo-2-trifluoromethyl-1-hydroxy-1H-imidazo(4,5-b)pyridine | 1 gram | NC=1C(=C2C(=NC1Br)N=C(N2O)C(F)(F)F)Br | C7H3Br2F3N4O
reactant | methyl iodide | 2 milliliters | CI | CH3I
reactant | potassium carbonate | 2 grams | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 10 milliliters | CC(=O)C | C3H6O
solvent | ether | about 80 milliliters | CCOCC | C4H10O
product | 1-METHOXY-6-AMINO-5,7-DIBROMO-2-(TRIFLUOROMETHYL)-1H-IMIDAZO(4,5-b)PYRIDINE | CON1C(=NC2=NC(=C(C(=C21)Br)N)Br)C(F)(F)F | C8H5Br2F3N4O
